US09290451B2
b) 5-(1-Amino-1-methyl-ethyl)-[1,2,4]oxadiazol-3-ylamine hydrochloride (1:1)
To a solution of [1-(3-amino-[1,2,4]oxadiazol-5-yl)-1-methyl-ethyl]carbamic acid tert-butyl ester (100 mg, 0.41 mmol) in ethanol (2 mL) was added HCl in dioxane (4 M, 0.41 ml, 1.65 mmol) and the reaction mixture was stirred 16 hours at room temperature. The reaction mixture was concentrated in vacuo and dried by applying high vacuum at 40° C. for 4 hours to give the title compound as white solid (75 mg, quant.); LC-MS (UV peak area/ESI) nd, 143.0928 (M+H)+.

reactant | [1-(3-amino-[1,2,4]oxadiazol-5-yl)-1-methyl-ethyl]carbamic acid tert-butyl ester | 0.41 mmol, 100 mg | C(C)(C)(C)OC(NC(C)(C)C1=NC(=NO1)N)=O | C10H18N4O3
reactant | HCl | Cl | ClH
reactant | dioxane | 1.65 mmol, 4 M, 0.41 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-(1-Amino-1-methyl-ethyl)-[1,2,4]oxadiazol-3-ylamine hydrochloride | 75 mg | Cl.NC(C)(C)C1=NC(=NO1)N | InChI=1S/C5H10N4O.ClH/c1-5(2,7)3-8-4(6)9-10-3;/h7H2,1-2H3,(H2,6,9);1H
